US07034039B2
Tert-butyl[4-butoxy-2-isobutyl-6-(4-methyl-1,3-thiazol-2-yl)-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.30 g, 0.6 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate (5 ml) and the mixture was stirred at room temperature for 1 h. The reaction mixture was concentrated under reduced pressure, and the precipitated crystals were recrystallized from methanol-diisopropyl ether to give 3-(aminomethyl)-4-butoxy-2-isobutyl-6-(4-methyl-1,3-thiazol-2-yl)-1(2H)-isoquinolinone dihydrochloride (0.27 g, 96.4%) as crystals.

reactant | Tert-butyl[4-butoxy-2-isobutyl-6-(4-methyl-1,3-thiazol-2-yl)-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.6 mmol, 0.30 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C=1SC=C(N1)C)=O)CC(C)C)=O | C27H37N3O4S
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 3-(aminomethyl)-4-butoxy-2-isobutyl-6-(4-methyl-1,3-thiazol-2-yl)-1(2H)-isoquinolinone dihydrochloride | 0.27 g, 96.4% | Cl.Cl.NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C=1SC=C(N1)C)=O)CC(C)C | InChI=1S/C22H29N3O2S.2ClH/c1-5-6-9-27-20-18-10-16(21-24-15(4)13-28-21)7-8-17(18)22(26)25(12-14(2)3)19(20)11-23;;/h7-8,10,13-14H,5-6,9,11-12,23H2,1-4H3;2*1H
